US07410966B2
N-{3-[4-(6-Bromo-3H-imidazo[4,5-b]pyridin-2-yl)phenoxy]propyl}-N,N-dimethylamine
The title compound was prepared from 5-bromo-2,3-diaminopyridine (376 mg, 2 mmol) and 4-[3-(dimethylamino)-propoxy]benzaldehyde (420 mg, 2 mmol).

reactant | 5-bromo-2,3-diaminopyridine | 2 mmol, 376 mg | BrC=1C=C(C(=NC1)N)N | C5H6BrN3
reactant | 4-[3-(dimethylamino)-propoxy]benzaldehyde | 2 mmol, 420 mg | CN(CCCOC1=CC=C(C=O)C=C1)C | C12H17NO2
product | N-{3-[4-(6-Bromo-3H-imidazo[4,5-b]pyridin-2-yl)phenoxy]propyl}-N,N-dimethylamine | BrC=1C=C2C(=NC1)NC(=N2)C2=CC=C(OCCCN(C)C)C=C2 | C17H19BrN4O
